US08304556B2
A-01) N-[6-(6-Fluoro-pyridine-3-carbonyl)-7-hydroxy-4,5-dihydro-benzothiazol-2-yl]-acetamide
The title compound is synthesized according to general procedure A1 starting form 21.0 g (100 mmol), N-(7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-acetamide and 20.2 g (120 mmol, 95% pure) 6-fluoro nicotinic acid chloride. Yield: 27.0 g.

reactant | N-(7-oxo-4,5,6,7-tetrahydro-benzothiazol-2-yl)-acetamide | O=C1CCCC=2N=C(SC21)NC(C)=O | C9H10N2O2S
reactant | 6-fluoro nicotinic acid chloride | 120 mmol, 20.2 g | FC1=NC=C(C(=O)Cl)C=C1 | C6H3ClFNO
product | N-[6-(6-Fluoro-pyridine-3-carbonyl)-7-hydroxy-4,5-dihydro-benzothiazol-2-yl]-acetamide | FC1=CC=C(C=N1)C(=O)C1=C(C2=C(N=C(S2)NC(C)=O)CC1)O | C15H12FN3O3S
